US06943267B1
Synthesis of 7-Bromomethylnaphthalene-1-carboxylic acid:
A suspension of N-bromosuccinimide (6.23 g, 0.035 mol) in a solution of 7-methylnaphthalene-1-carboxylic acid (6.2 g, 0.033 mol) in tetrachlomethane (200 mL) was refluxed in the presence trace amounts of benzoyl peroxide for 2 hours. The resulting white suspension was evaporated to dryness under reduced pressure, washed with hot water and dried to give the crude product (8.46 g, 95.8%). An analytical sample was recrystallized from benzene-ethanol mixture. M.p. 209.5-211° C. 1H NMR δ 13.20 (bs, 1H), 8.91 (bs, 1H), 8.30-7.95 (m, 3H), 7.72-7.54 (m, 2H), 4.92 (s, 2H). Anal. Calcd for C12H9BrO2: C, 54.37; H, 3.42. Found: C, 54.45; H, 3.44.

reactant | N-bromosuccinimide | 0.035 mol, 6.23 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 7-methylnaphthalene-1-carboxylic acid | 0.033 mol, 6.2 g | CC1=CC=C2C=CC=C(C2=C1)C(=O)O | C12H10O2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 7-Bromomethylnaphthalene-1-carboxylic acid | 8.46 g, 95.8% | BrCC1=CC=C2C=CC=C(C2=C1)C(=O)O | C12H9BrO2
